US07250418B2
Preparation of 5-(2,6-dimethoxypyridin-3-yl)-N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine but substituting 2-bromopyrimidine and starting with 5-(2,6-dimethoxypyridin-3-yl)-N-[(3R,4S)4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine provided the title compound as an amorphous solid. 1H NMR (400 MHz, CDCl3) δ) 8.35, 7.53, 6.52, 6.42, 5.18, 4.90, 4.20, 3.97, 3.93, 3.89, 3.77, 3.52, 2.72, 2.52, 1.33–1.25, 1.18; IR (diffuse reflectance) 2402 (w), 2347 (w), 2307 (w), 2264 (w), 2194 (w), 1601, 1582 (s), 1566, 1547 (s), 1510 (s), 1474 (s), 1395, 1377 (s), 1312 (s), 1022 cm−1 HRMS (ESI) calcd for C25H33N7O3+H1 480.2723. found 480.2715.

reactant | N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CN(C1)C1=NC=CC=N1)NC1=NC(=C(N=C1CC)C=1C(=NC(=CC1)OC)C)CC | C25H33N7O2
reactant | 2-bromopyrimidine | BrC1=NC=CC=N1 | C4H3BrN2
reactant | 5-(2,6-dimethoxypyridin-3-yl)-N-[(3R,4S)4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | COC1=NC(=CC=C1C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCC)CC)OC | C21H31N5O3
product | 5-(2,6-dimethoxypyridin-3-yl)-N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | COC1=NC(=CC=C1C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C1=NC=CC=N1)CC)OC | C25H33N7O3
